US06242443B1
3-Cyclopentylamino-6-fluoro-4H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of 2-amino-4-fluorobenzenesulfonamide (1.71 g, 9 mmol) and cyclopentyl isothiocyanate (4.6 ml, 36 mmol) was heated at 140° C. for 4 h. The mixture was cooled to room temperature and stirred with 50 ml of ethyl acetate. The precipitate was isolated by filtration and recrystallised from ethanol to give 591 mg (23%) of the title compound; m.p. 295-298° C.; 1H-NMR (DMSO-d6): δ 1.37-2.02 (m, 8H, cyclopentyl), 4.05 (sext, 1H, CH), 6.97-715 (m, 2H, ArH), 7.32 (br.s, 1H, NH), 7.72 (dd, 1H, ArH), 10.35 (br.s, 1H, NH; MS: m/e 283 (M+, 21%); (C12H14N3F1O2S1) calc. C, 50.87; H, 4.98; N, 14.83; found C, 50.75; H, 5.12; N, 14.93.

reactant | 2-amino-4-fluorobenzenesulfonamide | 9 mmol, 1.71 g | NC1=C(C=CC(=C1)F)S(=O)(=O)N | C6H7FN2O2S
reactant | cyclopentyl isothiocyanate | 36 mmol, 4.6 ml | C1(CCCC1)N=C=S | C6H9NS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-Cyclopentylamino-6-fluoro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 591 mg, 23% | C1(CCCC1)NC1=NS(C2=C(N1)C=C(C=C2)F)(=O)=O | C12H14FN3O2S
